US06005116
3-(2-Aminoethoxy)-5-(2,4-dichloro-3-ethylphenyl)isoxazole hydrochloride (Compound list No.: 1590)
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(2,4-dichlorophenyl)isoxazole (0.3 g) and ethyl iodide (0.1 ml) were subjected to reaction and post-treatment in a similar manner to that described in Example 14(a) to obtain the title compound (0.25 g, 78%) as a colorless powder.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(2,4-dichlorophenyl)isoxazole | 0.3 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=C(C=C(C=C1)Cl)Cl | C16H18Cl2N2O4
reactant | ethyl iodide | 0.1 ml | C(C)I | C2H5I
product | 3-(2-Aminoethoxy)-5-(2,4-dichloro-3-ethylphenyl)isoxazole hydrochloride | 0.25 g, 78% | Cl.NCCOC1=NOC(=C1)C1=C(C(=C(C=C1)Cl)CC)Cl | InChI=1S/C13H14Cl2N2O2.ClH/c1-2-8-10(14)4-3-9(13(8)15)11-7-12(17-19-11)18-6-5-16;/h3-4,7H,2,5-6,16H2,1H3;1H
